Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Cipro / ertapenem
 
Attending: ___.
 
Chief Complaint:
Episodes of unresponsiveness
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
The patient is an ___ year old man with history of dementia 
(lives in assisted living facility, A&Ox1-2 at baseline, 
essentially dependent on others for all ADLs), prior seizure in 
the setting of receiving ertapenem, history of prior ischemic 
stroke (unknown timing or circumstances, seen at ___, who 
presents with an episode of minimal responsiveness in setting of 
a 1 day history of generalized malaise. History provided by 
records and collateral from nursing at the ___ facility.

Mr. ___ is unable to provide any history at this time, 
reporting he feels like "the usual self." Per collateral with 
nurse at his assisted living facility, he had been complaining 
of generalized malaise and fatigue for the past day. He had 
spent the majority of the day in bed, which was somewhat 
atypical for him. On ___ in the evening, she was giving him his 
evening
medications at approximately 7:30PM. While administering the 
medications, she notes that the patient "stared off for several 
seconds" and was "trance-like." During this period, which lasted 
somewhere between several seconds to a minute, the patient was 
not speaking and not responding to verbal or tactile stimuli.
This was followed by a brisk return back to his baseline.  

Patient was reportedly in his usual state of health until this 
morning at approximately 11:30 AM. He had been seen well in the 
morning and took his morning medications. However, when staff 
went to check on him at 11:30 to bring him lunch, he was found 
seated in the wheelchair, eyes closed and minimally responsive. 
EMS was called, and notes that he was responsive to strong 
verbal
and painful stimuli only, opening eyes to these stimuli, not 
following commands, not verbal. He was noted to have pinpoint 
pupils per EMS, but on my collateral discussion with the RN she 
believes his pupils have been small for the last 2 weeks she has 
been taking care of him.  He was afebrile and hemodynamically 
stable at that time.  Concern was raised by EMS providers for
substance overdose, however patient does not take any opiates or 
opiate-related medications like Tramadol, and all medications 
are administered by nursing. He was brought to ___ for 
further evaluation.

At ___, vitals were notable for sinus bradycardia (HR 
___, otherwise unremarkable. Notably his respiratory rate was 
___. Neurologically, he was noted to be somnolent, arousable 
to voice but drifting to sleep just a few seconds after being 
spoken to. He was able to follow simple commands at that time. 
He was able to open his eyes to command. He underwent a toxic 
metabolic
workup (summarized below) which was unremarkable and CT head w/o 
contrast that was negative for acute process. He received a 
500cc fluid bolus at 15:55. 
 
At approximately 16:10, about 2 hours after arrival to ___ 
___, patient was noted to be more alert, interactive and at 
his baseline per the wife. Due to no neurology being available 
at ___ patient was transferred to ___ for further 
evaluation. 

At ___, vitals are within normal limits. Patient has no 
complaints at this time but clearly has limited insight into his 
condition.  

Of note, per discussion with the nurse at his facility, patient 
at baseline is alert, oriented to place but not to time. He is 
interactive and pleasant, but often gives very short responses 
to questions. He briskly follows commands. 
 
Past Medical History:
-Dementia (lives in assisted living facility, A&Ox1-2 at
baseline, essentially dependent on others for all ADLs)
-Prior seizure in the setting of receiving ertapenem
-History of prior ischemic stroke (unknown timing or
circumstances, seen at ___

 
Social History:
___
Family History:
Noncontributory

 
Physical Exam:
ADMISSION EXAM

Physical Exam:
Vitals: 98.3F, HR 68, BP 156/69, RR 17, 02 94$ RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert. Oriented to self. Says place is "a
place where they do tests" but unable to describe further; does
get hospital with choices. Not oriented to year or situation.
Demonstrates limited insight or understanding of his condition
("I'm here for something impossible--any ideas?").  Unable to
relate history.  Inattentive, requires prompting to maintain
attention to exam. Language is fluent with intact repetition  
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name high but not low frequency objects.  Able to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: Pupils very small, 0.5mm and reactive, symmetrically. VFF
unable to be tested due to mental status, but does BTT
bilaterally 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Sensorimotor: Normal bulk, tone throughout. No adventitious
movements, such as tremor, noted. Unable to test individual
muscle groups due to inattention and mental status deficits.
Grossly, moves all four extremities symmetrically and
antigravity, against resistance.  
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Possible left arm ataxia, though difficult to
assess as patient has significant pain due to  multiple IV
attempts on this side. Unable to cooperate with heel to shin
testing 

-Gait: deferred 

=========================================

DISCHARGE EXAM

Physical Exam:
Vitals: 98.1F, HR 65, BP 148/62, RR 18, 02 91% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused
Extremities: no cyanosis, clubbing or edema bilaterally

Neurologic:

-Mental Status: Awake, alert. Not oriented to time or place. 
Grossly inattentive. Language is sparse but fluent. Able to 
follow both midline and appendicular commands.

-Cranial Nerves:
II: Pupils 1 mm and reactive.
III, IV, VI: EOMI without nystagmus.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation.
XII: Tongue protrudes in midline.

-Sensorimotor: Normal bulk. No adventitious movements, such as 
tremor, noted. Unable to participate in full confrontational 
exam but able to move bilateral lower extremities off bed 
against resistance, no pronator drift.

-DTRs: ___.

-Coordination: Deferred.

-Gait: Deferred.

 
Pertinent Results:
___ 01:21PM BLOOD WBC-9.2 RBC-4.05* Hgb-13.2* Hct-39.3* 
MCV-97 MCH-32.6* MCHC-33.6 RDW-12.7 RDWSD-45.3 Plt ___
___ 01:21PM BLOOD Glucose-137* UreaN-16 Creat-0.9 Na-143 
K-4.3 Cl-106 HCO3-24 AnGap-13
___ 01:21PM BLOOD Calcium-8.4 Mg-2.0

___ 01:22PM URINE Color-Straw Appear-Clear Sp ___
___ 01:22PM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-80* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:22PM URINE RBC-4* WBC-3 Bacteri-FEW* Yeast-NONE 
Epi-<1

___ 1:22 pm URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.

CHEST (PORTABLE AP)
No prior chest radiographs available for review. 
  
Lungs are reasonably well expanded and clear.  Cardiomediastinal 
and hilar 
silhouettes and pleural surfaces are unremarkable though 
assessment is 
difficult because of patient rotation. 

Final EEG reads pending.
 
Brief Hospital Course:
1. Episodes of unresponsiveness, low likelihood of seizures: 
Patient's episode of unresponsiveness at his ALF was noted to 
resolve shortly after administration of fluids at ___, 
with non-contrast head CT negative at that time. Patient was 
transferred to ___ to investigate possible underlying seizure 
activity; continuous video EEG monitoring for 24 hours 
preliminarily did not reveal active seizures. Although patient 
was noted to have an episode of somnolence and decreased 
responsiveness to questions and commands one day prior to 
discharge, no seizure activity was noted at that time; these 
symptoms resolved in a few hours without intervention. No 
infectious process was identified on laboratory testing or chest 
imaging. Based on the absence of a clear worsening of underlying 
seizure disorder, antiepileptic regimen was not changed. 
Symptoms may have been related to symptomatic hypovolemia given 
poor oral intake at baseline and response to IV fluids.

Transitional issues:
1. Follow up final result of EEG reads.
 
Medications on Admission:
1. Tamsulosin 0.4 mg PO DAILY 
2. Cetirizine 10 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Tolterodine 4 mg PO DAILY 
5. Donepezil 5 mg PO QHS 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. LevETIRAcetam 500 mg PO BID 
8. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY  
2.  Citalopram 20 mg PO DAILY  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Donepezil 5 mg PO QHS  
5.  LevETIRAcetam 500 mg PO BID  
6.  Metoprolol Succinate XL 12.5 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO DAILY  
8.  Tolterodine 4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brief episodes of unresponsiveness not due to seizures

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of two episodes of unresponsiveness. Monitoring of 
your EEG did not show signs of ongoing seizure activity, and you 
did not have further episodes during your stay. Testing did not 
show signs of infection. No medication changes needed to be 
made.

It was a pleasure taking care of you at ___.

Sincerely,
___ Neurology
 
Followup Instructions:
___